### PR TITLE
[Merged by Bors] - feat (GroupTheory/PresentedGroup): mk and induction_on

### PR DESCRIPTION
**Pull request by hannahfechtner**
Define `PresentedGroup.mk` and `PresentedGroup.induction_on`. Add lemmas including `mk_surjective` and `generated_by`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 1]
```diff
@@ -43,6 +43,14 @@ mapped to the equivalence class of the image of `x` in `FreeGroup α`. -/
 def of {rels : Set (FreeGroup α)} (x : α) : PresentedGroup rels :=
   QuotientGroup.mk (FreeGroup.of x)
 
+/-- The canonical map from a free group `α` to a presented group with generators `x : α` `x` is
+mapped to its equivalence class under the given set of relations `rels`-/
+abbrev mk (rels : Set (FreeGroup α)) (a : FreeGroup α) : PresentedGroup rels :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:48]: Does this still help if it's an `abbrev` rather than a `def`?

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 2]
```diff
@@ -43,6 +43,14 @@ mapped to the equivalence class of the image of `x` in `FreeGroup α`. -/
 def of {rels : Set (FreeGroup α)} (x : α) : PresentedGroup rels :=
   QuotientGroup.mk (FreeGroup.of x)
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:44]: Should this now use `mk`?

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 3]
```diff
@@ -53,6 +61,23 @@ theorem closure_range_of (rels : Set (FreeGroup α)) :
     FreeGroup.closure_range_of, ← MonoidHom.range_eq_map]
   exact MonoidHom.range_top_of_surjective _ (QuotientGroup.mk'_surjective _)
 
+@[induction_eliminator]
+theorem induction_on {rels : Set (FreeGroup α)}  {C : PresentedGroup rels → Prop}
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:65]:
```suggestion
theorem induction_on {rels : Set (FreeGroup α)} {C : PresentedGroup rels → Prop}
```

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 4]
```diff
@@ -53,6 +61,23 @@ theorem closure_range_of (rels : Set (FreeGroup α)) :
...
+    (x : PresentedGroup rels) (H : ∀ z, C (mk rels z)) : C x :=
+  Quotient.inductionOn' x H
+
+theorem generated_by (rels : Set (FreeGroup α)) (H : Subgroup (PresentedGroup rels))
+    (h : ∀ j : α, PresentedGroup.of j ∈ H) : ∀ x : (PresentedGroup rels), x ∈ H := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:70]:
```suggestion
    (h : ∀ j : α, PresentedGroup.of j ∈ H) : ∀ x : PresentedGroup rels, x ∈ H := by
```

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 5]
```diff
@@ -53,6 +61,23 @@ theorem closure_range_of (rels : Set (FreeGroup α)) :
...
+  intro x
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:71]: Or
```suggestion
    (h : ∀ j : α, PresentedGroup.of j ∈ H) (x : PresentedGroup rels) : x ∈ H := by
```

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 6]
```diff
@@ -53,6 +61,23 @@ theorem closure_range_of (rels : Set (FreeGroup α)) :
...
+  apply induction_on x
+  intro z
+  apply FreeGroup.induction_on (C := fun z => ⟦z⟧ ∈ H) _ (one_mem H) (fun _ => h _)
+    fun _ => (Subgroup.inv_mem_iff H).mpr
+  intro _ _ h1 h2
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/PresentedGroup.lean:76]: Can these use the `induction` tactic? If not, why not?

Comment (hannahfechtner) [reply Mathlib/GroupTheory/PresentedGroup.lean]: both can! thanks, I was being silly

File: Mathlib/GroupTheory/PresentedGroup.lean (hunk 2 above)
Comment (hannahfechtner) [reply Mathlib/GroupTheory/PresentedGroup.lean]: updated :)

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 7]
```diff
@@ -38,10 +38,18 @@ namespace PresentedGroup
 instance (rels : Set (FreeGroup α)) : Group (PresentedGroup rels) :=
   QuotientGroup.Quotient.group _
 
+/-- The canonical map from a free group `α` to a presented group with generators `x : α` `x` is
+mapped to its equivalence class under the given set of relations `rels`-/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/PresentedGroup.lean:42]:
```suggestion
/-- The canonical map from the free group on `α` to a presented group with generators `x : α`,
where `x` is mapped to its equivalence class under the given set of relations `rels`-/
```

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 8]
```diff
@@ -53,6 +61,23 @@ theorem closure_range_of (rels : Set (FreeGroup α)) :
     FreeGroup.closure_range_of, ← MonoidHom.range_eq_map]
   exact MonoidHom.range_top_of_surjective _ (QuotientGroup.mk'_surjective _)
 
+@[induction_eliminator]
+theorem induction_on {rels : Set (FreeGroup α)} {C : PresentedGroup rels → Prop}
+    (x : PresentedGroup rels) (H : ∀ z, C (mk rels z)) : C x :=
+  Quotient.inductionOn' x H
+
+theorem generated_by (rels : Set (FreeGroup α)) (H : Subgroup (PresentedGroup rels))
+    (h : ∀ j : α, PresentedGroup.of j ∈ H) (x : PresentedGroup rels): x ∈ H := by
```
Comment (jcommelin) [inline Mathlib/GroupTheory/PresentedGroup.lean:70]:
```suggestion
    (h : ∀ j : α, PresentedGroup.of j ∈ H) (x : PresentedGroup rels) : x ∈ H := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks! Just a few more minor comments.

bors d+
